US07153972B2
Ethyl 2-methylthio-1-[[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
To a solution of ethyl 2-mercapto-1-[[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (0.68 g) in ethanol (10 ml) containing 1N-NaOH (3.0 ml) was added methyl iodide (0.24 g), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was neutralized with dilute hydrochloric acid to give crystals. The crystals were purified by column chromatography on silica gel. Recrystallization from ethyl acetate afforded colorless prisms (0.31 g, 44%), m.p. 207–208° C. (decomp.).

reactant | ethyl 2-mercapto-1-[[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.68 g | SC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C24H20N6O2S
reactant | NaOH | 3.0 ml | [OH-].[Na+]
reactant | methyl iodide | 0.24 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 2-methylthio-1-[[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | CSC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C25H22N6O2S
